Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
acyclovir
 
Attending: ___.
 
Chief Complaint:
Melena
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ with hx of obesity, OSA, htn, GERD, prostate cancer s/p
prostatectomy (no XRT) presenting with melena x5 days. Pt
describes formed black stools, occasionally loose, which started
on ___ or ___. He describes ___ black BMs per day, all in
the morning, with associated intermittent lightheadedness when
standing up from sitting or when quickly shifting in bed. He
takes daily ASA 81 mg, but no other antiplatelet or blood
thinner, and has never had melena in the past. He describes
taking NSAIDs approximately 5 times per year for occasional knee
pain, and denies EtOH use, reportedly 2 drinks per week during
the summer and none during the rest of the year. He reports 
acute
on chronic SOB and fatigue, and describes a constant, ___ LLQ
discomfort which has been present x2-3 months, "I have just
learned to live with it." Denies significant weight loss, night
sweats. He initially contacted his PCP with reports of melena,
and was evaluated on ___ apparently a stool guaiac was
positive. Pt was sent home, but subsequently contacted to go to
the ___ after labs returned with Hb 14.4 on ___ down to 11.0
on ___. Pt presented to ___ for further evaluation.

Of note, pt had been scheduled for EGD on ___ with Dr. 
___ for further evaluation of GERD symptoms and persistent
nasal congestion. He reports that he has had multiple
colonoscopies. 

In the ___, VS were 97.9, 73, 134/80, 95% RA. Labs 
were
notable for WBC 6.2, Hb 10.3, Plt 199, INR 1.07, BUN 21, Cr 1.0. 


___ reviewed case with GI, who advised ICU admission;
given lack of ICU availability, pt was transferred to ___ for
further care. Prior to transfer, two PIVs were placed, and pt
received pantoprazole 80 mg IV. 

In the ___ ___:
VS 98.2, 72, 109/61, 98% RA
Exam notable for well-appearing male, obese abdomen, soft, mild
TTP at ___

Labs notable for Hb 9.7 (Hct 28.9->33)
T&S ordered

Imaging: 
CXR - no acute process

Received:
IVF
Pantoprazole 40 mg IV

Discussed with GI, recommended NPO, PIVs, T&S, IV PPI BID. Will
follow for consideration of endoscopy.

On arrival to the floor, pt confirms above history in detail.
Denies chest pain, SOB. Endorses chronic productive cough, with
occasional nausea and spitting out white phlegm, without emesis
or hematemesis.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Obesity
OSA
Prostate cancer s/p prostatectomy - no XRT
Hypothyroidism
HLD

 
Social History:
___
Family History:
Family History, per prior notes: Reviewed and found to be not
relevant to this hospitalization/illness
 
Physical Exam:
Admission:
GEN: obese male, alert and interactive, comfortable, no acute
distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm with ___ systolic 
murmur,
no rubs or gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, large ventral hernia, mild TTP with deep palpation at
RUQ, epigastrium, and LLQ, without rebounding or guarding,
nondistended with normal active bowel sounds, no hepatomegaly
EXTREMITIES: trace bilateral pitting edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect

Discharge:
GEN:  alert and interactive, comfortable, no acute
distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
CARDIOVASCULAR: Regular rate and rhythm with ___ systolic 
murmur,
no rubs or gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, large ventral hernia, no tenderness to palpation,
without rebounding or guarding, nondistended with normal active
bowel sounds, no hepatomegaly
EXTREMITIES: no bilateral pitting edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect

 
Pertinent Results:
Admission:

___ 08:00PM   HCT-33.0*
___ 02:29PM URINE  HOURS-RANDOM
___ 02:29PM URINE  UHOLD-HOLD
___ 02:29PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:22PM   LACTATE-1.2
___ 01:56PM   ___ PTT-27.8 ___
___ 01:51PM   GLUCOSE-99 UREA N-17 CREAT-0.9 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-111* TOTAL CO2-21* ANION GAP-11
___ 01:51PM   estGFR-Using this
___ 01:51PM   ALT(SGPT)-20 AST(SGOT)-22 ALK PHOS-66 TOT 
BILI-0.4
___ 01:51PM   LIPASE-29
___ 01:51PM   ALBUMIN-3.8
___ 01:51PM   WBC-6.4 RBC-2.99* HGB-9.7* HCT-28.9* MCV-97 
MCH-32.4* MCHC-33.6 RDW-13.1 RDWSD-45.0
___ 01:51PM   NEUTS-67.9 LYMPHS-14.4* MONOS-12.8 EOS-3.0 
BASOS-0.6 NUC RBCS-0.5* IM ___ AbsNeut-4.35 AbsLymp-0.92* 
AbsMono-0.82* AbsEos-0.19 AbsBaso-0.04
___ 01:51PM   PLT COUNT-189

Discharge:

___ 04:47AM BLOOD WBC-6.9 RBC-3.16* Hgb-10.2* Hct-30.7* 
MCV-97 MCH-32.3* MCHC-33.2 RDW-13.1 RDWSD-45.6 Plt ___
___ 01:51PM BLOOD Neuts-67.9 Lymphs-14.4* Monos-12.8 
Eos-3.0 Baso-0.6 NRBC-0.5* Im ___ AbsNeut-4.35 
AbsLymp-0.92* AbsMono-0.82* AbsEos-0.19 AbsBaso-0.04
___ 04:47AM BLOOD Plt ___
___ 04:47AM BLOOD ___ PTT-27.8 ___
___ 04:47AM BLOOD Glucose-98 UreaN-12 Creat-1.1 Na-143 
K-4.2 Cl-109* HCO3-22 AnGap-12

Other Studies:
EGD: Normal mucose in the whole esophagus. Normal mucosa in the 
whole stomach. Normal mucosa in the whole examined duodenum.

 
Brief Hospital Course:
___ with hx of obesity, OSA, htn, GERD, prostate cancer s/p 
prostatectomy (no XRT) presenting with melena x5 days and 3 pt 
Hb drop since last check 1 month ago, concerning for GIB, with 
normal EGD.

# Melena: 
# Acute blood loss anemia: Hemodynamically stable with Hb 
14.4->11.0 since last check 1 month ago ___ records). Down 
to 9.7 on admission, now 10.2 on day of discharge, no 
transfusions necessary. He had an EGD on ___ which showed no 
abnormality. He had one black BM since admission. GI recommended 
eventual colonscopy but he elected to leave and follow up with 
them as an outpatient. We have provided the number to their 
clinic for him to call. He should continue to hold his aspirin 
as there is no clear indication other than probably ___ year 
cardiac risk. 

# HLD: 
- Continue home statin

# Hypothyroidism:
- Continue home levothyroxine

# OSA: On home CPAP.

Transitional issues:
[] Needs GI follow up for potential colonoscopy vs. enteroscopy

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Simvastatin 5 mg PO QPM 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
2.  Levothyroxine Sodium 75 mcg PO DAILY  
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*84 Tablet Refills:*0 
4.  Simvastatin 5 mg PO QPM  
5. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until we figure out what is causing your 
bleeding and your doctor tells you to restart it
6.Outpatient Lab Work
Complete blood count
ICD-9-CM Diagnosis Code 285.9 : Anemia, unspecified. anemia (due 
to): blood loss: acute (285.1 )
Primary Provider: ___. MD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Gi bleeding/melena
Seconary: hyperlipidemia, hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were having GI bleeding. 
An endoscopy showed now findings. You decided to go home instead 
of staying for a colonoscopy. You should follow up with your PCP 
and the GI clinic (numbers are listed below). Your PCP ___ 
check your blood count. In the meantime, you should take oral 
pantoprazole twice a day for six weeks. 

We wish you the best,

Sincerely,

Your care team at ___
 
Followup Instructions:
___